US07897597B2
3-Chloroperoxybenozic acid (mCPBA) (75% pure, 11.57 g, 50.27 mmol, 1.5 eq) was added to a solution of 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline (15.00 g, 33.52 mmol. 1 eq) in dichloromethane (200 mL), and the reaction mixture was stirred for two hours. Analysis by thin layer chromatography indicated the reaction was incomplete and additional mCPBA (1.2 g) was added and the reaction was stirred overnight. The reaction mixture was diluted with dichloromethane (300 mL), washed sequentially with 4% aqueous sodium carbonate solution (2×300 mL) and brine (300 mL), and concentrated under reduced pressure to afford a residue. Concentrated ammonium hydroxide (75 mL) was then added to a mixture of the residue in dichloromethane (200 mL) and cooled to 4° C. p-Toluenesulfonyl chloride (2.75 g, 14.44 mmol, 1.1 eq) was added in portions to the reaction mixture and stirred at ambient temperature for 16 hours. The reaction mixture was then diluted with dichloromethane (200 mL), washed with 4M aqueous sodium carbonate solution and separated. The aqueous layer was re-extracted with dichloromethane (200 mL) and the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a brown solid. The crude material was purified by crystallization from diethyl ether to provide 9.8 g of 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-ylamine as white plates of solid, mp 186-187° C. 1H-NMR (300 MHz, CDCl3) δ 7.89 (d, J=9.1 Hz, 1H), 7.53-7.29 (m, 6H), 7.05 (dd, J=9.0, 2.6 Hz, 1H), 5.42 (br s, 2H), 5.18 (s, 2H), 4.94 (d, J=12.6 Hz, 1H), 4.83-4.69 (m, 3H), 4.68-4.58 (m, 1H), 4.15 (dd, J=8.6, 6.2 Hz, 1H), 3.86 (dd, J=8.6, 6.1 Hz, 1H), 3.62 (q, J=7.0 Hz, 2H), 1.45 (s, 3H), 1.29 (s, 3H), 1.25 (t, J=7.0 Hz, 3H); 13C-NMR (75 MHz, CDCl3) δ 158.3, 151.7, 149.0, 147.1, 136.8, 134.7, 128.6, 128.0, 127.6, 125.4, 120.9, 113.8, 110.2, 109.7, 108.9, 74.6, 70.0, 66.7, 66.3, 65.3, 48.2, 26.7, 25.1, 15.0; MS (APCI) m/z 463.1 (M+H)+; Anal, calcd for C26H30N4O4: C, 67.51; H, 6.54; N, 12.11. Found: C, 67.29; H, 6.33; N, 12.03.

reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline | 33.52 mmol, 15.00 g, 1 eq | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3OC(OC3)(C)C)COCC | C26H29N3O4
reactant | mCPBA | 1.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 75 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 14.44 mmol, 2.75 g, 1.1 eq | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 7-benzyloxy-1-[(2,2-dimethyl[1,3]dioxolan-4yl)methyl]-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-ylamine | 9.8 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3OC(OC3)(C)C)COCC | C26H30N4O4
